US05538986
Dissolved 3-[10,11-dihydro-5-propyl-5H-dibenzo[a,d]cyclohepten-5yl]-propanal (0.75 g, 2.56 mmol) in 5 mL of dry THF and 10 mL of dry methanol. Added 3A sieves, dimethylamine hydrochloride (1.05 g, 12.82 mmol), and sodium cyanoborohydride (0.161 g, 2.56 mmol). Stirred to room temperature for 24 hours. Added saturated NaHCO3, and filtered through celite. Extracted filtrate with dichloromethane. Dried combined organic extracts with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 3% MeOH--CH2Cl2 then 10% MeOH--CH2Cl2. Combined appropriate fractions, and evaporated to give 0.53 g (65% yield) of 10,11-dihydro-N,N-dimethyl-5-propyl-5H-dibenzo[a,d]cycloheptenepropanamine as an oil. Dissolved free base in dichloromethane, and added 28.8 weight % HCl-ethanol until acidic. Evaporated to give hydrochloride salt as a foam.

reactant | 3-[10,11-dihydro-5-propyl-5H-dibenzo[a,d]cyclohepten-5yl]-propanal | 2.56 mmol, 0.75 g | C(CC)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCC=O | C21H24O
reactant | dimethylamine hydrochloride | 12.82 mmol, 1.05 g | Cl.CNC
reactant | sodium cyanoborohydride | 2.56 mmol, 0.161 g | C(#N)[BH3-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 10,11-dihydro-N,N-dimethyl-5-propyl-5H-dibenzo[a,d]cycloheptenepropanamine | 0.53 g, 65% yield | CN(CCCC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCC)C | C23H31N
